US06380387B1
To a solution of N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrirnidinyl)-L-phenylalanine methyl ester (3.87 mmol, 1.78 g) in dioxane (10 mL) was added 4N hydrochloric acid in dioxane (20 mmol, 5 mL) at room temperature and the solution was stirred for 1 h. The solution was concentrated and was diluted with diethyl ether to form a white solid. The mother liquor was decanted and the residue was dried on a rotary evaporator and then under high vacuum to afford 0.72 g (47% yield) of 4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt as an amorphous solid. ES-HRMS m/e calcd for C19H25N3O4 (M+Na) 382.1737, found 382.1736.

reactant | N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrirnidinyl)-L-phenylalanine methyl ester | 3.87 mmol, 1.78 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)CC)=O)CC)=O)=O | C24H33N3O6
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mmol, 5 mL | O1CCOCC1 | C4H8O2
product | 4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt | 0.72 g, 47% yield | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)CC)=O)CC)=O)=O | InChI=1S/C19H25N3O4.ClH/c1-5-21-12(3)16(17(23)22(6-2)19(21)25)14-9-7-13(8-10-14)11-15(20)18(24)26-4;/h7-10,15H,5-6,11,20H2,1-4H3;1H/t15-;/m0./s1
